data/oMe_Silver.jsonl
{"reaction_id": "NR-148_1-C(C)(C)C_2-CC_3-CC_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_5-C(C)(C)C_6-CCCC(C)C","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(CC)CC)(C(C)(C)C)O[Si](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","C(=O)(C(C)(C)C)(CCCC(C)C)"],"products_smiles": ["C(C)(C)CC(=O)C(CC)(CC)C(O)(C(C)(C)C)(CCCC(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))(C(C)(C)C)(CCCC(C)C)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC(=O)C(CC)(CC)C(O[Si](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))(C(C)(C)C)(CCCC(C)C)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(=O)C(CC)(CC)C(O)(C(C)(C)C)(CCCC(C)C)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
{"reaction_id": "NR-208_1-c1ccc(OC)cc1_2-Cl_3-CC#N_4-COCC","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(c1ccc(OC)cc1)=C(Cl)C(CC#N)(COCC)OC=N"],"products_smiles": ["C(=O)NC(c1ccc(OC)cc1)C(Cl)=C(CC#N)(COCC)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(c1ccc(OC)cc1)C(Cl)=C(CC#N)(COCC)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
